US07084156B2
Step A: Preparation of methyl 2-oxo-1,2-dihydroquinoline-4-carboxylate
In a heavy-walled PYREX tube was placed 2-iodoaniline (2.84 g, 13 mmol), dimethylmaleate (2.44 g, 17 mmol), triethylamine (1.4 mL, 10 mmol), palladium diacetate (31 mg, 0.14 mmol) and 6 mL acetonitrile. The tube was flushed with nitrogen and sealed. The sealed tube was heated at 100° for 3.5 h then cooled to r.t. The tube was opened and the resulting solids filtered and washed with acetonitrile. The solids were dissolved in chloroform and the solvent removed under vacuum to provide a solid.

reactant | 2-iodoaniline | 13 mmol, 2.84 g | IC1=C(N)C=CC=C1 | C6H6IN
reactant | dimethylmaleate | 17 mmol, 2.44 g | C/C(=C(/C(=O)[O-])\C)/C(=O)[O-]
reactant | triethylamine | 10 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium diacetate | 0.14 mmol, 31 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | methyl 2-oxo-1,2-dihydroquinoline-4-carboxylate | O=C1NC2=CC=CC=C2C(=C1)C(=O)OC | C11H9NO3
